US05925644
Example II 1-Benzoyloxymethyl-5-bromo-6-ethyl-4-[2-(2,4-dimethylphenoxy)-propylamino]pyrimidinium iodide
0.3 g (8.2 mmol) of 5-bromo-6-ethyl-4-[2-(2,4-dimethylphenoxy)-propylamino]pyrimidine (according to EP-A-57 440), 0.17 g (9.8 mmol) of chloromethyl benzoate and 0.12 g (8.2 mmol) of sodium iodide in 25 ml of acetone were heated under reflux for 8 hours. After cooling, the precipitated sodium chloride was filtered off and the filtrate was concentrated. The residue was taken up in dichloromethane and washed by stirring with water. The organic phase was dried and concentrated. The residue was digested with ethyl acetate. Filtration with suction gave 0.97 g (53.3% of theory) of light-yellow crystals. mp.: 159-161° C.

reactant | 5-bromo-6-ethyl-4-[2-(2,4-dimethylphenoxy)-propylamino]pyrimidine | 8.2 mmol, 0.3 g | BrC=1C(=NC=NC1CC)NCC(C)OC1=C(C=C(C=C1)C)C | C17H22BrN3O
reactant | chloromethyl benzoate | 9.8 mmol, 0.17 g | C(C1=CC=CC=C1)(=O)OCCl | C8H7ClO2
reactant | sodium iodide | 8.2 mmol, 0.12 g | [I-].[Na+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 1-Benzoyloxymethyl-5-bromo-6-ethyl-4-[2-(2,4-dimethylphenoxy)-propylamino]pyrimidinium iodide | [I-].C(C1=CC=CC=C1)(=O)OC[N+]1=CN=C(C(=C1CC)Br)NCC(C)OC1=C(C=C(C=C1)C)C | InChI=1S/C25H28BrN3O3.HI/c1-5-21-23(26)24(27-14-19(4)32-22-12-11-17(2)13-18(22)3)28-15-29(21)16-31-25(30)20-9-7-6-8-10-20;/h6-13,15,19H,5,14,16H2,1-4H3;1H
